US08097613B2
4-Fluorobenzaldehyde (0.565 mL, 5.27 mmol), sodium acetate (0.864 g, 10.5 mmol), powdered/activated 4 Å molecular sieves (1.0 g) and sodium cyanoborohydride (0.662 g, 10.5 mmol) were added sequentially to a solution of racemic 3-amino-3-cyclopropyl-propionic acid ethyl ester hydrochloride (1.02 g, 5.27 mmol) in methanol (25 mL) at 25° C. The mixture was stirred at 25° C. for 17 h, and then was filtered through Celite. The Celite was washed with methanol (2×30 mL) and the combined filtrate and washings were partitioned between half-saturated aqueous sodium bicarbonate solution (150 mL) and ethyl acetate (2×150 mL). The combined organic layers were dried over sodium sulfate and were concentrated in vacuo. The residue was purified by flash column chromatography (Teledyne Isco RediSep column; 0-80% ethyl acetate in hexanes) to afford rac-3-cyclopropyl-3-(4-fluoro-benzylamino)-propionic acid ethyl ester (0.75 g, 2.83 mmol, 53%) as a colorless oil. 1H NMR (400 MHz, CDCl3) δ: 0.00-0.06 (1H, m), 0.16-0.22 (1H, m), 0.36-0.43 (1H, m), 0.50-0.57 (1H, m), 0.75-0.84 (1H, m), 1.18 (3H, t, J=7.0 Hz), 2.17-2.23 (1H, m), 2.53 (2H, d, J=6.1 Hz), 3.74 (1H, d, J=12.4 Hz), 3.87 (1H, d, J=12.3 Hz), 4.05 (2H, q, J=7.0 Hz), 6.88-6.96 (2H, m), 7.21-7.25 (2H, m).

reactant | 4-Fluorobenzaldehyde | 5.27 mmol, 0.565 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | sodium acetate | 10.5 mmol, 0.864 g | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 10.5 mmol, 0.662 g | C(#N)[BH3-].[Na+]
reactant | racemic 3-amino-3-cyclopropyl-propionic acid ethyl ester hydrochloride | 5.27 mmol, 1.02 g | Cl.C(C)OC(CC(C1CC1)N)=O
solvent | methanol | 25 mL | CO | CH4O
product | rac-3-cyclopropyl-3-(4-fluoro-benzylamino)-propionic acid ethyl ester | 2.83 mmol, 0.75 g, 53% | C(C)OC(CC(NCC1=CC=C(C=C1)F)C1CC1)=O | C15H20FNO2
